US07294635B2
To a solution of 2-fluoro-5-nitrobenzyl alcohol (1 g, 5.84 mmol) in 25 mL ether, was added tetrabromomethane (3.87 g, 11.7 mmol), followed by triphenylphosphine (3.39 g, 11.7 mmol). The mixture was stirred at room temperature for 2 hours. The reaction was concentrated and the crude residue purified by column chromatography (silica, 10% EtOAc/hexane) to give pure 2-bromomethyl-1-fluoro-4-nitro-benzene.

reactant | 2-fluoro-5-nitrobenzyl alcohol | 5.84 mmol, 1 g | FC1=C(CO)C=C(C=C1)[N+](=O)[O-] | C7H6FNO3
reactant | tetrabromomethane | 11.7 mmol, 3.87 g | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 11.7 mmol, 3.39 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ether | 25 mL | CCOCC | C4H10O
product | 2-bromomethyl-1-fluoro-4-nitro-benzene | BrCC1=C(C=CC(=C1)[N+](=O)[O-])F | C7H5BrFNO2
